US07253153B2
Preparation of Reactant 2-propyl-pentanoic Acid Chloromethyl Ester:
Para-formaldehyde (1 g) and zinc chloride (catalytic amount) were mixed together at 0° C. 2,2-Di-n-propylacetyl chloride (30 mole, 4.88 g) was added dropwise over 1 hour. The reaction was warmed to ambient temperature, then was heated to 50-55° C. for 6 hours. The reaction mixture continued stirring at room temperature for 16 hours. The reaction mixture was taken up with methylene chloride (5 mL) and flash chromatographed on 150 g silica gel. Elution with 1 to 5% ethyl acetate/hexane gave 3.3 g (58%) of the desired product.

reactant | Para-formaldehyde | 1 g | C=O | CH2O
reactant | 2,2-Di-n-propylacetyl chloride | 30 mole, 4.88 g | C(CC)C(C(=O)Cl)CCC | C8H15ClO
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 2-propyl-pentanoic Acid Chloromethyl Ester | 3.3 g, 58% | ClCOC(C(CCC)CCC)=O | C9H17ClO2
